US07109186B2
Compound 759: 1-[2-(4-Benzoyl-piperazin-1-yl)-ethyl]-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide
To a solution of benzoyl chloride (0.023 mL, 0.23 mmol) in dichloromethane (1 mL) cooled to 0° C. was added dropwise a solution of 4-hydroxy-5-oxo-1-(2-piperazin-1-yl-ethyl)-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide (0.10 g, 0.20 mmol) in pyridine/dichloromethane (4 mL, 1:1). The resulting mixture was stirred at room temp 18 h and quenched with 1N HCl. The organic phase was washed with 1N HCl (3 times). The aqueous washings were combined and purified by preparative HPLC (C18, ODS-A, S-75 μm, 30% acetonitrile/water/0.5% TFA) to give the title compound as a white powder (0.0215 g, 20% yield). HRMS (M+H) calcd for C26H29N4Cl2O4: 531.1566; found: 531.1563.

reactant | benzoyl chloride | 0.23 mmol, 0.023 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-hydroxy-5-oxo-1-(2-piperazin-1-yl-ethyl)-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | 0.20 mmol, 0.10 g | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CCN2CCNCC2)C)C=CC1Cl | C19H24Cl2N4O3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | pyridine dichloromethane | 4 mL | N1=CC=CC=C1.ClCCl
product | 1-[2-(4-Benzoyl-piperazin-1-yl)-ethyl]-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | 0.0215 g, 20% yield | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CCN2CCN(CC2)C(C2=CC=CC=C2)=O)C)C=CC1Cl | C26H28Cl2N4O4
